US06362177B1
A mixture of 4-[{N-(2-amino5-chlorobenzoyl)glycyl}aminomethyl]piperidine (16.2 mg, 0.050 mmol), 4-(trifluoromethylthio)benzyl bromide (20.3 mg, 0.075 mmol), piperidinomethylpolystyrene (60 mg), acetonitrile (1.0 mL) and chloroform (0.50 mL) was stirred at 60° C. for 15 h. The reaction mixture was cooled, loaded onto Varian™ SCX column and washed with CH3OH (15 mL). Product was eluted using 2 N NH3 in CH3OH (5 mL) and concentrated to afford 4-[{N-(2-amino-5-chlorobenzoyl)glycyl}aminomethyl]-1-{4-(trifluoromethylthio)benzyl}piperidine (Compound No.1616) (21.9 mg, 85%): The purity was determined by RPLC/MS (96%); ESI/MS m/e 545.2 (M++H, C23H26ClF3N4O2S).

reactant | 4-[{N-(2-amino5-chlorobenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol, 16.2 mg | NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C=C1)Cl | C15H21ClN4O2
reactant | 4-(trifluoromethylthio)benzyl bromide | 0.075 mmol, 20.3 mg | FC(SC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3S
reactant | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | chloroform | 0.50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[{N-(2-amino-5-chlorobenzoyl)glycyl}aminomethyl]-1-{4-(trifluoromethylthio)benzyl}piperidine | 21.9 mg, 85% | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC=C(C=C2)SC(F)(F)F)C=C(C=C1)Cl | C23H26ClF3N4O2S
